US05250546
(4RS,5SR)-4-(3-Methylbutyl)-5-phenyl-3-(3-piperidinopropyl)-1,3-oxazolidin-2-one
A mixture of (4RS, 5SR)-4-(3-methylbutyl)-5-phenyl-1,3-oxazolidin-2-one [mp: 111°-112 ° C.; prepared from (1RS,2SR)-2-amino-5-methyl-1-phenylhexan-1-ol by a known method {M. E. Dyen and D. Swern: Chem. Rev., 67, 197(1967)}] (1.17 g, 5 mmol), 1-(3-chloropropyl)piperidine hydrochloride (1.49 g, 7.5 mmol), anhydrous potassium carbonate powder (2.07 g, 15 mmol) in methyl ethyl ketone (15 ml) was refluxed with stirring for 24 hours. After cooling, insoluble material was removed by filtration and washed with methyl ethyl ketone. The washing and filtrate were combined together and concentrated under reduced pressure The residue was purified by silica gel column chromatography (silica gel:35 g ; eluent: chloroform/methanol) to obtain 1.52 g of the title compound as an oil (yield : 85%).

reactant | (4RS, 5SR)-4-(3-methylbutyl)-5-phenyl-1,3-oxazolidin-2-one | CC(CCC1NC(OC1C1=CC=CC=C1)=O)C | C14H19NO2
reactant | (1RS,2SR)-2-amino-5-methyl-1-phenylhexan-1-ol | NC(C(O)C1=CC=CC=C1)CCC(C)C | C13H21NO
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 7.5 mmol, 1.49 g | Cl.ClCCCN1CCCCC1
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 15 ml | C(C)C(=O)C | C4H8O
product | (4RS,5SR)-4-(3-Methylbutyl)-5-phenyl-3-(3-piperidinopropyl)-1,3-oxazolidin-2-one | 1.52 g, 85% | CC(CCC1N(C(OC1C1=CC=CC=C1)=O)CCCN1CCCCC1)C | C22H34N2O2
